US07951963B2
To ethylene glycol (11.0 mL) solution of 0.25 g of tert-butyl 2-(1-benzothiophen-4-yl)-2-cyanoacetate were added 11.0 mL of aqueous solution of 40% (w/w) potassium hydroxide and 0.3 mL of water, which was then stirred at 95 to 105° C. for 1 hour. To the reaction mixture were added water and toluene, and the aqueous layer was separated. The pH was adjusted to 2 with 6 mol/L hydrochloric acid, to which was added ethyl acetate. The organic layer was separated, and dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. To the resultant residue was added cyclohexane. The precipitate was collected by filtration to provide 0.15 g of 2-(1-benzothiophen-4-yl)acetic acid as white solid form.

reactant | ethylene glycol | 11.0 mL | C(CO)O | C2H6O2
reactant | tert-butyl 2-(1-benzothiophen-4-yl)-2-cyanoacetate | 0.25 g | S1C=CC2=C1C=CC=C2C(C(=O)OC(C)(C)C)C#N | C15H15NO2S
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 0.3 mL | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(1-benzothiophen-4-yl)acetic acid | 0.15 g | S1C=CC2=C1C=CC=C2CC(=O)O | C10H8O2S
